US04436726
Starting from 3-hexadecanoyloxyoctadecanoic acid (10.8 g) prepared by the method described in Preparation 2 and L-valine (5.85 g), N-(3-hexadecanoyloxyoctadecanoyl)-L-valine (8 g) was obtained as crystals according to a similar manner to that of Example 6.

reactant | 3-hexadecanoyloxyoctadecanoic acid | 10.8 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)O)CCCCCCCCCCCCCCC | C34H66O4
reactant | L-valine | 5.85 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
product | N-(3-hexadecanoyloxyoctadecanoyl)-L-valine | 8 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)O)CCCCCCCCCCCCCCC | C39H75NO5
